US08664220B2
Step 2: 3-{4′-[4-(1-Hydroxy-prop-2-ynyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-propionic acid ethyl ester
Prepared according to the procedure described in Example 25, Step 1, using 3-[4′-(4-formyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-propionic acid ethyl ester and ethynylmagnesium bromide.

reactant | 3-[4′-(4-formyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C=O)=O | C22H21NO4
reactant | ethynylmagnesium bromide | C(#C)[Mg]Br
product | 3-{4′-[4-(1-Hydroxy-prop-2-ynyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(C#C)O)=O | C24H23NO4
